US07342118B2
3-(4-[2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino]-imidazol-1-yl)-butyric acid methyl ester
3-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-butyric acid methyl ester was coupled with (3,5-Difluoro-phenyl)-acetic acid to provide the title compound: Mixture of Diastereomers, MS m/z 437.2 (M+1). The diastereomers were separated using using ChiralOD column, elute 85:15 heptane:ethanol; Flow Rate 85 mL/min. Diastereomer #1 (RT=9.39 min.) C13 NMR (100 MHz, CDCl3) 13.9, 18.9, 19.2, 21.5, 21.6, 28.3, 30.5, 35.9, 41.9, 42.2, 43.0, 50.6, 50.7, 52.1, 53.1, 102.7, 104.9, 112.3, 112.5, 132.2, 138.0, 169.2, 169.6, 170.7; MS m/z 437.2 (M+1) Diastereomer #2 (RT=13.6 min.) C13 NMR (100 MHz, CDCl3) 13.9, 18.9, 21.6, 35.8, 42.0, 43.1, 50.8, 52.1, 53.1, 102.9, 104.8, 112.3, 112.6, 132.4, 137.9, 169.3, 170.6; MS m/z 437.2 (M+1).

reactant | 3-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-butyric acid methyl ester | COC(CC(C)N1C=NC(=C1)NC(C(CCC)N)=O)=O | C13H22N4O3
reactant | (3,5-Difluoro-phenyl)-acetic acid | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
product | 3-(4-[2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino]-imidazol-1-yl)-butyric acid methyl ester | COC(CC(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)=O | C21H26F2N4O4
